US09034866B2
To a solution of 4,9-Dibromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (400 mg, 0.95 mmol) in DMF (9 mL) were added cyclobutanamine (81.5 mg, 1.15 mmol), DIPEA (370 mg, 2.86 mmol). The reaction mixture was stirred in autoclave at 90° C. overnight. Then the mixture was cooled to room temperature and partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, concentrated in vacuo and purified by flash column chromatography (silica gel, EtOAc in hexane from 10% to 20%) to afford 9-Bromo-4-cyclobutylamino-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (110 mg, 28%). NMR (400 MHz, DMSO-d6): δ 8.44 (d, J=2.5 Hz, 1H), 7.47 (dd, J1=8.6 Hz, J2=2.5 Hz, 1H), 7.05 (d, J=8.6 Hz, 1H), 4.42 (m, 2H), 3.96 (m, 1H), 3.14 (m, 1H), 2.15 (m, 1H), 1.74 (m, 2H), 1.55 (m, 2H).

reactant | 4,9-Dibromo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.95 mmol, 400 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)Br | C13H9Br2NO3S
reactant | cyclobutanamine | 1.15 mmol, 81.5 mg | C1(CCC1)N | C4H9N
reactant | DIPEA | 2.86 mmol, 370 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 9-Bromo-4-cyclobutylamino-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 110 mg, 28% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)NC3CCC3 | C17H17BrN2O3S
